US07973026B2
Step 2: methyl 4-allyl-6-cyclohexyl-5-(2-vinylphenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate
To a 0.1M solution of methyl 6-cyclohexyl-5-(2-vinylphenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate in dry DMF, 60% NaH (1.2 eq.) in mineral oil was added; when gas evolution had ceased, allyl bromide (1.3 eq.) was added, and the suspension was stirred at RT for 1 h. All volatiles were evaporated and the title compound was isolated by chromatography (PE/Et2O 20:1). Yield: 98%. 1H-NMR (400 MHz, CDCl3, 300K, δ) 7.73 (d, 1H, J 7.6), 7.70 (s, 1H), 7.47 (t, 1H, J 7.6), 7.36 (t, 1H, J 7.6), 7.25 (d, 1H, J 7.6), 6.48 (dd, 1H, J 17.8, 11.4), 5.72 (d, 1H, J 17.8), 5.80-5.69 (m, 1H), 5.20 (d, 1H, J 11.4), 5.09 (dd, 1H, J 10.3, 1.1), 4.97 (dd, 1H, J 17.1, 1.1), 4.36 (dd, 1H, J 16.2, 5.6), 4.23 (dd, 1H, J 16.2, 5.6), 3.92 (s, 3H), 2.35-2.24 (m, 1H), 1.75-1.16 (m, 10H).

reactant | methyl 6-cyclohexyl-5-(2-vinylphenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | C1(CCCCC1)C=1C2=C(NC1C1=C(C=CC=C1)C=C)C=C(S2)C(=O)OC | C22H23NO2S
reactant | NaH | 1.2 eq. | [H-].[Na+]
reactant | allyl bromide | 1.3 eq. | C(C=C)Br | C3H5Br
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 4-allyl-6-cyclohexyl-5-(2-vinylphenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | Yield: 98% | C(C=C)N1C2=C(C(=C1C1=C(C=CC=C1)C=C)C1CCCCC1)SC(=C2)C(=O)OC | C25H27NO2S
